US04883884
(1,3-diethylacetonyl)(1,3-diisopropylacetonyl)sulfide;
3-methyl-thio-4-heptanone; 3-propyl-thio-4-heptanone; 3-(methallylthio)-2,6-dimethyl-4-heptanone; 3-crotylthio-2,6-dimethyl-4-heptanone; and 3-allylthio-2,6-dimethyl-4-heptanone.

reactant | 3-(methallylthio)-2,6-dimethyl-4-heptanone | C(C(C)=C)SC(C(C)C)C(CC(C)C)=O | C13H24OS
reactant | 3-crotylthio-2,6-dimethyl-4-heptanone | C(C=CC)SC(C(C)C)C(CC(C)C)=O | C13H24OS
reactant | 3-allylthio-2,6-dimethyl-4-heptanone | C(C=C)SC(C(C)C)C(CC(C)C)=O | C12H22OS
product | (1,3-diethylacetonyl)(1,3-diisopropylacetonyl)sulfide | C(C)C(C(=O)CCC)SC(C(=O)CC(C)C)C(C)C | C16H30O2S
